Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, abdominal pain, vomiting, and diarrhea

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y/o F with a PMHx significant for Hep C c/b 
hepatocellular carcinoma and hyperthyroidism who presents with 
likely infectious colitis diagnosed 4 days ago at ___ by CT scan 
now representing unable to take POs at home.

Per patient, she began having nausea, abdominal pain, vomiting 
and diarrhea about four days ago.  She went to ___ and had a CT 
scan which showed colitis and was given prescriptions for oral 
cipro/flagyl.  The next day, she was unable to tolerate POs and 
again went to the ED, was observed overnight and was discharged 
home.  Today, she has been vomiting and was unable to tolerate 
POs to take her antibiotics and pain medications.  She states 
the abdominal pain is sharp and located in the lower quadrants, 
is intermitant in nature and now feels much improved after the 
morphine in the ED.  She states she has vomited 3x today and had 
5 episodes of watery diarrhea.  No fevers, chills, chest pain, 
sob, hematemesis, hematochezia, melena, dysuria.  No recent abx 
use, no sick contacts.

In the ED, initial vitals were: 98.2 57 174/83 18 100%  
___ was called for the results of her CT scan.  Labs were 
significant for no leukocytosis and her baseline 
transaminitis/thrombocytopenia.  Lactate was wnl. She received 
IV Cipro 400mg, IV Flagyl 500mg, IV Zofran and IV morphine 5mg.
 
On the floor, initial vitals were: 
 
ROS:  
(+) Per HPI  

 
Past Medical History:
- HCV c/b hepatocellular carcinoma, Childs ___ class A
- Hyperthyroidism, for which she is on propylthiouracil x
approximately ___
- Osteoporosis
- History of brain hemangioma resected in ___ ___ at
___

 
Social History:
___
Family History:
Mother-diabetes ___ and hypertension
Sister- deceased, pancreatic cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: 98.3 143/77 72 20 100% on RA
GENERAL: Alert, oriented, no acute distress  
HEENT: MMM 
NECK: supple
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: AAOx3

DISCHARGE PHYSICAL EXAM
=========================
VS: T97.9 BP171/70-182/90 HR70 RR18 100RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Moist mucous membranes
LUNGS: Clear to auscultation, no wheezes, rales, rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Warm, 2+ DP pulses, no clubbing, cyanosis or edema 

 
Pertinent Results:
ADMISSION LABS
===============
___ 02:00PM BLOOD WBC-4.4 RBC-4.58 Hgb-14.3 Hct-44.7 MCV-98 
MCH-31.2 MCHC-32.0 RDW-12.3 Plt ___
___ 02:00PM BLOOD Neuts-63.1 ___ Monos-4.1 Eos-1.2 
Baso-0.9
___ 02:00PM BLOOD Plt ___
___ 02:00PM BLOOD Glucose-156* UreaN-8 Creat-0.6 Na-135 
K-3.3 Cl-104 HCO3-22 AnGap-12
___ 02:00PM BLOOD ALT-104* AST-103* AlkPhos-104 TotBili-0.7
___ 02:00PM BLOOD Albumin-4.0

DISCHARGE LABS
=================
___ 07:21AM BLOOD WBC-9.9 RBC-5.04 Hgb-15.9 Hct-49.3* 
MCV-98 MCH-31.6 MCHC-32.3 RDW-12.8 Plt ___
___ 07:21AM BLOOD Neuts-68.0 ___ Monos-7.8 Eos-0.8 
Baso-0.6
___ 07:21AM BLOOD Plt ___
___ 07:21AM BLOOD ___ PTT-37.7* ___
___ 07:21AM BLOOD Glucose-99 UreaN-9 Creat-0.6 Na-133 K-3.6 
Cl-96 HCO3-23 AnGap-18
___ 07:21AM BLOOD ALT-117* AST-115* LD(LDH)-245 AlkPhos-77 
TotBili-1.1
___ 07:21AM BLOOD Albumin-3.9 Calcium-8.9 Phos-2.9 Mg-2.1
___ 08:10AM BLOOD TSH-1.2
___ 08:10AM BLOOD T4-11.8

MICROBIOLOGY
=============
___ 2:50 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___: 
      NO SALMONELLA OR SHIGELLA FOUND. 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

___ Blood cultures x2- pending at time of discharge

RADIOLOGY
==========
RUQ U/S ___
1. No evidence of acute intra-abdominal process. 
2. 1.9 x 1.7 x 1.5 cm segment VIII hepatic mass, better 
characterized on recent MRI examination. 

PER ED DASH
CT ABD at ___ on ___
Long segment of bowel thickening, fat stranding cecum to mid 
descending colon.

 
Brief Hospital Course:
___ y/o F with a PMHx significant for Hep C c/b hepatocellular 
carcinoma and hyperthyroidism who presents with likely 
infectious colitis diagnosed 4 days ago at ___ by CT scan now 
representing unable to take POs at home.

ACTIVE ISSUES
==============
#  Colitis
Patient was admitted with nausea/vomiting/diarrhea.  ___ report 
obtained and CT scan showed "long segment of bowel wall 
thickening and surrounding fat stranding extending from te cecum 
to the mid descending colon representing colitis.  This may be 
secondary to infectious or inflammatory process, less likely 
ischemic in the distribuion."  Most likely infectious in nature. 
 Patient was initially started on IV Cipro/Flagyl given concern 
for Cdiff as well as infectious colitis.  Cdiff returned 
negative and IV Flagyl was discontinued.  Patient continued to 
be treated with IVF and IV Zofran PRN.  Eventually, her symptoms 
improved and IV Cipro was changed to PO Cipro for a total ___levated blood pressures
Patient with elevated blood pressure during hospitalization with 
SBPs elevated to 170-180 asymptomatic, possibly in setting of 
acute illness.  Patient was started on amlodipine 5mg PO daily 
and will followup with her PCP to determine if she needs this 
long term and for possible further titration.
 
CHRONIC ISSUES
================
#  Hyperthyroidism: Continued home dose propylthiouracil 

#  Hepatitis C c/b hepatocellular carcinoma: Thrombocytopenia 
and transaminitis seemed at baseline.

#  Cigarette smoking: nicotine patch while hospitalized

TRANSITIONAL ISSUES
====================
-Antibiotics for infectious colitis with ciprofloxacin 500mg PO 
Q12H, last day ___
-Started amlodipine 5mg daily for elevated SBP 160-180s 
asymptomatic, further titration per PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Propylthiouracil 50 mg PO DAILY 
2. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Ondansetron 4 mg PO Q8H:PRN n/v 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Propylthiouracil 50 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Ondansetron 4 mg PO Q8H:PRN n/v 
4. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
5. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0
6. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Colitis, infectious
-Elevated blood pressures
-Orthostatic hypotension

SECONDARY:
-Hyperthyroidism
-Hepatitis C
-Tobacco abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital because of 
diarrhea, nausea and vomiting. This was due to colitis, or an 
inflammation in your colon.  You were treated with IV fluids and 
antibiotics.  Please find your medications and appointment 
below.

You had elevated blood pressures in the hospital, most likely 
from your illness and pain. We started you on a blood pressure 
medication called amlodipine, and this will need to be monitored 
by your primary care doctor.
 
Followup Instructions:
___